Name:  ___.                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Tetracycline / Zithromax / 
Fluconazole / Simvastatin / Pravastatin / eggs / Wheat / dairy / 
Wheat Containing Prod / beans / ___ / salmon / lamb / 
Prilosec / lidocaine / lidocaine
 
Attending: ___.
 
Chief Complaint:
GERD
 
Major Surgical or Invasive Procedure:
___
Laparoscopic ___ fundoplication

 
History of Present Illness:
Ms ___ is a ___ never smoker with severe GERD.  EGD ___
showed active esophagitis. She is unresponsive to conservative
medical management. She continues with sour feeling in mouth,
constant reflux interfering with work out, heartburn, taking up
to 10 Tums a day, dysphagia with solids, epigastric pressure 
that
worsens with bending. Intolerant of PPI due to hypokalemic
periodic paralysis. She avoids all citric fruit, no acidic 
foods,
takes only tea but no coffee, chocolate,  no caffeine etc.
Her BRAVO showed increase of amt of acid reflux  with ___
score of 28.3 ( 14.79), no EMS done. She presents now for 
surgery.

 
Past Medical History:
Urine incontinence for ___ year  
Chronic back pain  
history of hypokalemic sensory overstimulation,  
rosacea,  
loose ligaments,  
resected malignant melanoma,  
Hasimoto's thyroiditis,  
alopecia areata,  
numerous food intolerances  
number of recurrent infections including URI, vaginal yeast and 
mild gastroenteritis.  
PSH  
repair of a deviated septum,  
TAH and BSO for fibroids,  
an exploratory laparoscopy,  
excision of a melanoma of the left leg.  

 
Social History:
___
Family History:
n/a
 
Physical Exam:
BP: 117/71. Heart Rate: 82. O2 Saturation%: 98. Weight: 192.4.
Height: 67. BMI: 30.1. Temperature: 97.9. Resp. Rate: 16. Pain
Score: 0.         

GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [x] EOMI   [x] PERRL/A   [x] Anicteric
[x] OP/NP mucosa normal     [x] Tongue midline
[x] Palate symmetric  [x] Neck supple/NT/without mass
[x] Trachea midline [x] Thyroid nl size/contour
[ ] Abnormal findings:

RESPIRATORY    
[x] CTA/P     [x] Excursion normal     [x] No fremitus
[x] No egophony    [x] No spine/CVAT
[ ] Abnormal findings:

CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    [x] No JVD   [x] PMI nl  [x] No edema
[x] Peripheral pulses nl    [x] No abd/carotid bruit
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND  [x] No mass/HSM   [x] No hernia
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[x] Strength intact/symmetric    [x] Sensation intact/ symmetric
[x] Reflexes nl     [x] No facial asymmetry [x] Cognition intact
[x] Cranial nerves intact   [ ] Abnormal findings:

MS     

        
[x] No clubbing   [x] No cyanosis   [x] No edema   [x] Gait nl
[x] No tenderness  [x] Tone/align/ROM nl   [x] Palpation nl
[x] Nails nl   [ ] Abnormal findings:

LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl     [x] Axillary nl
[x] Inguinal nl   [ ] Abnormal findings:

SKIN           
[x] No rashes/lesions/ulcers
[x] No induration/nodules/tightening     [ ] Abnormal findings:

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 
Brief Hospital Course:
Mrs. ___ was admitted to the hospital and taken to the 
Operating Room where she underwent a Laparoscopic Nissen 
fundoplication. She tolerated the procedure well and returned to 
the PACU in stable condition. She maintained stable hemodynamics 
and her pain was minimal.

Following transfer to the Surgical floor she progressed well. 
She was able to swallow liquids and medications without 
difficulty and she began a full liquid diet the morning after 
surgery which was well tolerated. Her pain was controlled with 
Tylenol but she was given a prescription for Oxycodone in case 
she needs something stronger the more active she gets.  Her 
oxygen was weaned off and her room air saturations were 97%. Her 
port sites were healing well and she was using her incentive 
spirometer effectively. After an uneventful stay she was 
discharged to home on ___ and will follow up in the 
Thoracic Clinic in 2 weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clobetasol Propionate 0.05% Gel 1 Appl TP DAILY 
2. urea 40 % topical DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral DAILY 
5. Levothyroxine Sodium 150 mcg PO DAILY 
6. Vitamin D 4000 UNIT PO DAILY 
7. Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate 
8. Potassium Chloride 20 mEq PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2 
3.  Milk of Magnesia 30 mL PO Q12H:PRN constipation  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
5.  Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral DAILY  
6.  Clobetasol Propionate 0.05% Gel 1 Appl TP DAILY  
7.  Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate  
8.  Levothyroxine Sodium 150 mcg PO DAILY  
9.  Multivitamins 1 TAB PO DAILY  
10.  Potassium Chloride 20 mEq PO BID  
11.  urea 40 % topical DAILY  
12.  Vitamin D 4000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroesophageal reflux disease.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call Dr. ___ ___ if you experience:
 -Fevers > 101 or chills
 -Difficult or painful swallowing
 -Nausea, vomiting. 
 -Increased shortness of breath

 Pain
 -Acetaminophen 650 mg every 8 hours 
 -Take stool softners while taking narcotics
 -No driving while taking narcotics

 Activity
 -Shower daily. Wash incision with mild soap and water, rinse, 
pat dry
 -No tub bathing, swimming or hot tubs until incision healed
 -No lotions or creams to incision
 -Walk ___ times a day for ___ minutes increase to a Goal of 
30 minutes daily

 Diet:
 Full liquid diet for ___ days. Increase to soft solids as 
tolerates

 Eat small frequent meals. Sit in chair for all meals. Remain 
sitting up for ___ minutes after all meals

 NO CARBONATED DRINKS
 
Followup Instructions:
___